US07514436B2
Synthesis of Propane-1-Sulfonic Acid {6-[4-(2-Trifluoromethylbenzoyl)Piperazin-1-yl]Pyridazin-3-yl}Amide
To a mixture of [4-(6-amino pyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone (0.10 g, 0.285 mmol) and triethyl amine (0.037 g, 0.371 mmol) in 10 mL of dichloromethane at 0° C. was added n-propylsulphonyl chloride (0.044 g, 0.313 mmol). The reaction mixture was stirred at room temperature for 4 hours and then dilute hydrochloric acid solution was added (20 mL). The mixture was extracted with dichloromethane. The organic layer was washed with brine, dried over anhydrous sodium sulphate, the concentrated in vacuo. The residue was purified by column chromatography to yield the title compound as a white solid (46.3 mg, 35.5% yield). 1H NMR (400 MHz, CDCl3) δ 7.75, 7.63-7.66, 7.56-7.59, 7.37, 7.25, 6.99, 4.04-4.07, 3.85-3.89, 3.71-3.78, 3.35, 1.96-2.00, 1.1.

reactant | [4-(6-amino pyridazin-3-yl)piperazin-1-yl]-(2-trifluoromethylphenyl)methanone | 0.285 mmol, 0.10 g | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
reactant | triethyl amine | 0.371 mmol, 0.037 g | C(C)N(CC)CC | C6H15N
reactant | n-propylsulphonyl chloride | 0.313 mmol, 0.044 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Propane-1-Sulfonic Acid {6-[4-(2-Trifluoromethylbenzoyl)Piperazin-1-yl]Pyridazin-3-yl}Amide | 46.3 mg, 35.5% yield | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)NS(=O)(=O)CCC)C=CC=C1)(F)F | C19H22F3N5O3S
